US08071592B2
1-(2-{(3S,4R)-4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-3-hydroxy-1-piperidinyl}ethyl)-7-(methyloxy)-1,5-naphthyridin-2(1H)-one hydrochloride
1-{2-[(3S,4R)-4-amino-3-hydroxy-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride (209 mg) was stirred in 9:1 v:v chloroform:MeOH (5 ml) at rt under argon and triethylamine (25011) was added. The mixture was stirred at rt for 10 mins., then 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (88 mg, for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) was added and the mixture was stirred at rt for 4 hours before being treated with sodium triacetoxyborohydride (360 mg) added in one portion. The mixture was then stirred at rt overnight. Saturated aqueous sodium hydrogen cabonate (2 ml) was then added and the organic phase was diluted with DCM to bring the total volume to ca. 50 ml. The organic phase was separated using a hydrophobic frit and the aqueous phase was extracted with DCM (2×10 ml). The combined organic extracts were evaporated under reduced pressure and purified by MDAP to give the free base of the title compound as colourless gum (30 mg).

reactant | 1-{2-[(3S,4R)-4-amino-3-hydroxy-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride | 209 mg | Cl.Cl.N[C@H]1[C@H](CN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O)O
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 360 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen cabonate | 2 ml | C(O)([O-])=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | MeOH | 5 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-{(3S,4R)-4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-3-hydroxy-1-piperidinyl}ethyl)-7-(methyloxy)-1,5-naphthyridin-2(1H)-one hydrochloride | 30 mg | Cl.O1CCOC=2C=NC(=CC21)CN[C@H]2[C@H](CN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O)O | InChI=1S/C24H29N5O5.ClH/c1-32-17-11-20-18(27-13-17)2-3-24(31)29(20)7-6-28-5-4-19(21(30)15-28)26-12-16-10-22-23(14-25-16)34-9-8-33-22;/h2-3,10-11,13-14,19,21,26,30H,4-9,12,15H2,1H3;1H/t19-,21+;/m1./s1
